US04428952
3-(2-methyl-benzylidene)-1,2,3,9-tetrahydro-9-oxo-pyrrolo[2,1-b]quinazoline-7-carboxamide (2.7 g) in dimethylformamide (100 ml) containing pyridine (2.6 ml) was reacted with p-toluenesulfonyl chloride (3.1 g) under stirring at 70° C. for 4 hours. After cooling and dilution with water, the precipitate was filtered and washed with water until neutral: crystallization from chloroform-ethanol gave 1.8 g of 7-cyano-3-(2-methyl-benzylidene)-1,2,3,9-tetrahydropyrrolo[2,1-b]quinazoline-9-one, m.p. 234°-236° C., NMR (CDCl3 -DMSO-CF3COOD) δ ppm: 2.50 (s) (3H, --CH3), 3.29 (m) (2H, C-2 protons), 4.28 (t) (2H, C-1 protons), 7.30-7.60 (m) (4H, phenyl protons), 7.89 (m) (2H, C-5 and C-6 protons), 8.16 (d) (1H, C-8 proton), 8.59 (t) (1H, =CH--).

reactant | 3-(2-methyl-benzylidene)-1,2,3,9-tetrahydro-9-oxo-pyrrolo[2,1-b]quinazoline-7-carboxamide | 2.7 g | CC1=C(C=C2CCN3C2=NC=2C=CC(=CC2C3=O)C(=O)N)C=CC=C1 | C20H17N3O2
reactant | pyridine | 2.6 ml | N1=CC=CC=C1 | C5H5N
reactant | p-toluenesulfonyl chloride | 3.1 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 7-cyano-3-(2-methyl-benzylidene)-1,2,3,9-tetrahydropyrrolo[2,1-b]quinazoline-9-one | 1.8 g | C(#N)C1=CC=2C(N3C(=NC2C=C1)C(CC3)=CC3=C(C=CC=C3)C)=O | C20H15N3O
